US04105776
Diphenylmethanol (0.92 g) and 1-(3-mercapto-2-benzylpropanoyl)-L-proline (1.5 g) are dissolved in trifluoroacetic acid (10 ml) and the solution is kept at room temperature for 30 minutes. The excess trifluoroacetic acid is removed in vacuo to yield 1-[3-[(diphenylmethyl)thio]-2-benzylpropanoyl]-L-proline.

reactant | Diphenylmethanol | 0.92 g | C1(=CC=CC=C1)C(O)C1=CC=CC=C1 | C13H12O
reactant | 1-(3-mercapto-2-benzylpropanoyl)-L-proline | 1.5 g | SCC(C(=O)N1[C@H](C(=O)O)CCC1)CC1=CC=CC=C1 | C15H19NO3S
solvent | trifluoroacetic acid | 10 ml | FC(C(=O)O)(F)F | C2HF3O2
product | 1-[3-[(diphenylmethyl)thio]-2-benzylpropanoyl]-L-proline | C1(=CC=CC=C1)C(SCC(C(=O)N1[C@H](C(=O)O)CCC1)CC1=CC=CC=C1)C1=CC=CC=C1 | C28H29NO3S
